US07304037B2
II.2.d Ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-(3-aminophenyl)-propanoate
64.6 g of tin-(II) chloride were added to a solution of 18.8 g of ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-(3-nitrophenyl)-propanoate from Example II.2.c in 245 ml of ethanol, and the mixture was heated to reflux for 2 h. The reaction mixture was hydrolized with 300 ml of aqueous 2N sodium hydroxide solution, then filtered through silica gel, and the filtrate was washed with dichloromethane. The organic phase was dried over magnesium sulphate and concentrated to yield 13.1 g of a white solid.

reactant | tin-(II) chloride | 64.6 g | [Sn](Cl)Cl
reactant | ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-(3-nitrophenyl)-propanoate | 18.8 g | C(C=C)OC(=O)NC(CC(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-] | C15H18N2O6
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 245 ml | C(C)O | C2H6O
product | Ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-(3-aminophenyl)-propanoate | 13.1 g | C(C=C)OC(=O)NC(CC(=O)OCC)C1=CC(=CC=C1)N | C15H20N2O4
